data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3024,3381,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][CH:6]=[O+:7][C-:8]([CH3:9])[C:10](=[O:11])[O:12][CH3:13]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:8]([CH3:9])([C:10](=[O:11])[O:12][CH3:13])[O:7][CH:6]1[CH3:5],water,298.15,13.151402757810295,-57.95025178111125
505,552,[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[NH-:10][NH+:11]=[CH:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[CH:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[NH:11][NH:10]3,water,298.15,15.654642399618616,-36.94636138336803
3011,3363,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[C-:8]([C:9]#[N:10])[N+:11]#[C:12][C:13]#[N:14]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:8]([C:6]([CH3:5])=[O:7])([C:9]#[N:10])[N:11]=[C:12]1[C:13]#[N:14],water,298.15,11.98393280298173,-43.74272110346708
1354,1487,[CH3:14][NH:15][C:16](=[O:17])[C:18]#[N+:19][N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[CH:4]1[C:5]#[C:6][C:7]([CH3:8])([CH3:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][C:2](=[O:3])[CH:4]1[c:5]2[c:6]([c:18]([C:16]([NH:15][CH3:14])=[O:17])[n:19][n:20]2-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[C:7]([CH3:8])([CH3:9])[CH2:10][CH2:11][CH2:12][CH2:13]1,water,298.15,11.385576255991554,-84.0165021034409
1895,2100,[CH3:16][N-:17][O+:18]=[C:19]([C:20](=[O:21])[O:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[N:17]([CH3:16])[O:18][C:19]2([C:20](=[O:21])[O:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,13.119625902738028,-61.40341867678382
3864,4422,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[CH-:11][NH+:12]=[C:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:11]([C:9]([O:8][CH3:7])=[O:10])[NH:12][C:13]1([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,29.188195577793568,-8.625109871130212
2658,2951,[CH3:15][C:16](=[O:17])[C-:18]([NH+:19]=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[NH:19][C:18]2([C:16]([CH3:15])=[O:17])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,38.2110476792793,16.079520982779762
3390,3850,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([N+:8]#[C:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[C:16]([CH3:17])=[O:18]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([C:16]([CH3:17])=[O:18])[N:8]=[C:9]1[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1,water,298.15,18.707416083887285,-37.35534787081948
4668,5323,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18]([CH3:19])=[O:20])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:21](=[O:22])[O:23][CH3:24],water,298.15,11.982254694457351,-42.98877839643809
3361,3818,[CH3:6][C:7](=[O:8])[C-:9]([NH+:10]=[C:11]([CH3:12])[C:13]#[N:14])[C:15]([CH3:16])=[O:17].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:11]([CH3:12])([C:13]#[N:14])[NH:10][C:9]1([C:7]([CH3:6])=[O:8])[C:15]([CH3:16])=[O:17],water,298.15,55.0538821031742,35.269368934711494
164,181,[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([F:7])([F:8])[F:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[C:12]([C:13]#[N:14])([C:15](=[O:16])[NH:17][CH3:18])[N:11]=[CH:10]1,water,298.15,11.523851648193286,-62.02065031402428
4709,5377,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[CH:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:17]([CH3:18])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,25.579940339787488,-31.266506297529588
1571,1737,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[NH+:19][CH-:20][C:21]([CH3:22])=[O:23].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:20]([C:21]([CH3:22])=[O:23])[NH:19][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,20.04597148910217,-36.79614538548199
